US07138533B2
8-{3-[1-(2-Oxo-2-phenylethyl)-4-piperidinyl]propanoyl}-1,2,5,6-tetrahydro-4H-pyrrolo [3,2,1-ij]quinolin-4-one hydrochloride
Using 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (500 mg) and phenacyl chloride (248 mg) according to the same method as that of Example 81, the title compound (301 mg) was obtained as colorless crystals having a melting point of 114 to 116° C.

reactant | 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 500 mg | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | phenacyl chloride | 248 mg | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
product | 8-{3-[1-(2-Oxo-2-phenylethyl)-4-piperidinyl]propanoyl}-1,2,5,6-tetrahydro-4H-pyrrolo [3,2,1-ij]quinolin-4-one hydrochloride | 301 mg | Cl.O=C(CN1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O)C3=CC=CC=C3 | InChI=1S/C27H30N2O3.ClH/c30-24(23-16-21-7-9-26(32)29-15-12-22(17-23)27(21)29)8-6-19-10-13-28(14-11-19)18-25(31)20-4-2-1-3-5-20;/h1-5,16-17,19H,6-15,18H2;1H
